US08957073B2
To a solution of 2-azetidin-3-yl-3-m-tolyl-quinoxaline hydrochloride (311 mg, 1 mmol) and 2-chloro-quinoline (163 mg, 1.0 mmol) in DMF (6 mL) was added Cs2CO3 (650 mg, 2 mmol). The reaction mixture was stirred at 100° C. overnight. The reaction mixture was diluted with water, extracted with EtOAc (2×30 mL). The combined organic extracts were washed with water (20 mL) and brine (20 mL), dried over Na2SO4 and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel to give 2-(1-quinolin-2-yl-azetidin-3-yl)-3-m-tolyl-quinoxaline (256 mg, 0.64 mmol yield 63.7%).

reactant | 2-azetidin-3-yl-3-m-tolyl-quinoxaline hydrochloride | 1 mmol, 311 mg | Cl.N1CC(C1)C1=NC2=CC=CC=C2N=C1C=1C=C(C=CC1)C
reactant | 2-chloro-quinoline | 1.0 mmol, 163 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | Cs2CO3 | 2 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(1-quinolin-2-yl-azetidin-3-yl)-3-m-tolyl-quinoxaline | 0.64 mmol, 256 mg, yield 63.7% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)C1=NC2=CC=CC=C2N=C1C=1C=C(C=CC1)C | C27H22N4
